US03975537
Sodium borohydride (7.4 g., 0.2 mol.) is added portionwise to a rapidly stirred solution of 26.7 g. (0.1 mol.) of 2-(4'-nitrobenzoyl)benzofuran in methanol. The reaction mixture stirred at 25° for one hour then quenched by addition of water. The aqueous slurry is extracted with chloroform, the extracts are dried (MgSO4) and the solvent is removed in vacuo to give 2-(α-hydroxy-4'-nitrobenzyl)benzofuran which is immediately converted to the corresponding α-chloride by reaction with 14.3 g. (0.12 mol.) of thionyl chloride.

reactant | Sodium borohydride | 0.2 mol, 7.4 g | [BH4-].[Na+]
reactant | 2-(4'-nitrobenzoyl)benzofuran | 0.1 mol | [N+](=O)([O-])C1=CC=C(C(=O)C=2OC3=C(C2)C=CC=C3)C=C1 | C15H9NO4
solvent | methanol | CO | CH4O
product | 2-(α-hydroxy-4'-nitrobenzyl)benzofuran | OC(C1=CC=C(C=C1)[N+](=O)[O-])C=1OC2=C(C1)C=CC=C2 | C15H11NO4
